US05053408
With stirring under ice cooling, 20.25 g (97.7 mmols) of 3,4,5-trimethoxyphenylacetonitrile was added by small portions to 50 ml of a solution of 2.45 g (102.1 mmols) of sodium hydride in dimethylformamide. The solution was dropwise added to 100 ml of a solution of 12.45 g (101.2 mmols) of 2-bromopropane in dimethylformamide with stirring under ice cooling. The mixture was stirred under ice cooling for further 3 hours. After the reaction, an aqueous saturated sodium bicarbonate solution was added to the mixture followed by extraction of the solution with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate =4/1) to afford 13.2 g (yield: 54%) of 3-methyl-2-(3,4,5-trimethoxyphenyl)butyronitrile.

reactant | 3,4,5-trimethoxyphenylacetonitrile | 97.7 mmols, 20.25 g | COC=1C=C(C=C(C1OC)OC)CC#N | C11H13NO3
reactant | sodium hydride | 102.1 mmols, 2.45 g | [H-].[Na+]
reactant | 2-bromopropane | 101.2 mmols, 12.45 g | BrC(C)C | C3H7Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-methyl-2-(3,4,5-trimethoxyphenyl)butyronitrile | 13.2 g, yield: 54% | CC(C(C#N)C1=CC(=C(C(=C1)OC)OC)OC)C | C14H19NO3
